US04639266
(4) 1-(3-Trifluoromethylphenyl)-5-trichloromethyl-1,2,4-triazole-3-carboxylic acid
210 g (0.54 mole) of 1-(3-trifluoromethylphenyl)-3-methoxycarbonyl-5-trichloromethyl-1,2,4-triazole in 540 ml of methanol were initially taken, and 0.57 mole (22.8 g) of NaOH in 100 ml of water was added. After being stirred at room temperature for 5 hours, the mixture was poured into 4,000 ml of water, the undissolved substance was filtered off and the clear filtrate was adjusted to pH 1 with hydrochloric acid. Colorless crystals were precipitated and were filtered off with suction and washed with water. The substance which remained undissolved in water--the sodium salt of the carboxylic acid--was dissolved in a mixture of 2,000 ml of methanol and 1,000 ml of water, the pH of the solution was adjusted to 1 with hydrochloric acid, and the colorless crystalline precipitate was filtered off with suction and washed with water.

reactant | 1-(3-trifluoromethylphenyl)-3-methoxycarbonyl-5-trichloromethyl-1,2,4-triazole | 0.54 mole, 210 g | FC(C=1C=C(C=CC1)N1N=C(N=C1C(Cl)(Cl)Cl)C(=O)OC)(F)F | C12H7Cl3F3N3O2
reactant | NaOH | 0.57 mole, 22.8 g | [OH-].[Na+]
solvent | methanol | 540 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | water | 4,000 ml | O | H2O
product | 1-(3-Trifluoromethylphenyl)-5-trichloromethyl-1,2,4-triazole-3-carboxylic acid | FC(C=1C=C(C=CC1)N1N=C(N=C1C(Cl)(Cl)Cl)C(=O)O)(F)F | C11H5Cl3F3N3O2
